US08008303B2
Thiophene-2-carboxylic acid {4′-[4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-yl}-amide (Route B)
2′-Methyl-5′-[(thiophene-2-carbonyl)-amino]-biphenyl-4-carboxylic acid (45 mg), 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine (32 mg), EDAC (25 mg), HOBT (18 mg) and N-methylmorpholine (27 mg) in dry DMF (0.5 ml) was stirred at 20 C for 18 h. The mixture was then diluted with water (6 ml) and the resulting colourless solid collected by filtration and dried (62 mg).

reactant | 2′-Methyl-5′-[(thiophene-2-carbonyl)-amino]-biphenyl-4-carboxylic acid | 45 mg | CC1=C(C=C(C=C1)NC(=O)C=1SC=CC1)C1=CC=C(C=C1)C(=O)O | C19H15NO3S
reactant | 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine | 32 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
reactant | EDAC | 25 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 18 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 27 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | water | 6 ml | O | H2O
product | Thiophene-2-carboxylic acid {4′-[4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-yl}-amide | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C=1SC=CC1)=O | C30H29N3O4S2
